US08222245B2
9-[(Phenylmethyl)oxy]-2,3,4,5-tetrahydro-1,4-benzoxazepine
1M Lithium aluminum hydride (60 ml, 60.0 mmol) in THF was added to a stirred solution of 9-[(phenylmethyl)oxy]-3,4-dihydro-1,4-benzoxazepin-5(2H)-one (Preparation 59) (7.4 g, 27.5 mmol) in THF (150 ml) under argon and heated at 60° C. for 2 hours then cooled and quenched by careful addition of 100 ml of 2M sodium hydroxide with ice bath cooling and the resulting suspension filtered, the solids washed with water and EtOAc and the organic dried (magnesium sulphate) and evaporated to give 7.01 g of white solid. MS (ES): C16H17NO2 requires 255; found 256 [M+H]+.

reactant | Lithium aluminum hydride | 60.0 mmol, 1M, 60 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 9-[(phenylmethyl)oxy]-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 27.5 mmol, 7.4 g | C1(=CC=CC=C1)COC1=CC=CC=2C(NCCOC21)=O | C16H15NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 9-[(Phenylmethyl)oxy]-2,3,4,5-tetrahydro-1,4-benzoxazepine | 7.01 g | C1(=CC=CC=C1)COC1=CC=CC=2CNCCOC21 | C16H17NO2
